US06320081B1
Preparation of 3-(3-hydroxy-4-amino-2,5,6-trifluorophenoxy)-6-aminophenol
43.6 g of 1-(3-hydroxy-4-nitro-2,5,6-trifluorophenoxy)-3-benzyloxy-4-nitrobenzene prepared as described in Example 13 (0.1 mol) are dissolved in 400 ml of a mixture of tetrahydrofuran and ethyl acetate (volume ratio 1:1), and 4.4 g of Pd/C (palladium/carbon) are added to the solution. The mixture is then hydrogenated at room temperature in an autoclave with vigorous stirring using hydrogen at a pressure of 1 bar; after 3 days, the reaction is terminated. The yellow solution is evaporated to half in a rotary evaporator an left to stand at room temperature overnight, during which the reaction product precipitates in crystalline form. The reaction product is then separated off and dried for 48 hours under nitrogen at, 40° C./10 mbar in a vacuum drying cabinet.

reactant | 1-(3-hydroxy-4-nitro-2,5,6-trifluorophenoxy)-3-benzyloxy-4-nitrobenzene | 43.6 g | OC=1C(=C(OC2=CC(=C(C=C2)[N+](=O)[O-])OCC2=CC=CC=C2)C(=C(C1[N+](=O)[O-])F)F)F | C19H11F3N2O7
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 4.4 g | [Pd] | Pd
product | 3-(3-hydroxy-4-amino-2,5,6-trifluorophenoxy)-6-aminophenol | OC=1C(=C(OC=2C=C(C(=CC2)N)O)C(=C(C1N)F)F)F | C12H9F3N2O3
